US07932270B2
To a solution of (R)-tert-butyl 2-((6-(2-cyanophenyl)-2-(3-fluorophenethylamino)nicotinamido)methyl)pyrrolidine-1-carboxylate (680 mg, 1.25 mmol) in MeOH (20 mL) was added HCl (2.0 mL, 8 mmol, 4 M in dioxane). The reaction was stirred at r.t. for 2 h. LC/MS indicated the reaction was complete. The reaction mixture was concentrated under reduced pressure to give 6-(2-cyanophenyl)-2-(3-fluorophenethylamino)-N-(pyrrolidin-2-ylmethyl)nicotinamide hydrochloride which was used for next step without further purification. LRMS (M+H+) m/z 444.2.

reactant | (R)-tert-butyl 2-((6-(2-cyanophenyl)-2-(3-fluorophenethylamino)nicotinamido)methyl)pyrrolidine-1-carboxylate | 1.25 mmol, 680 mg | C(#N)C1=C(C=CC=C1)C1=NC(=C(C(=O)NC[C@@H]2N(CCC2)C(=O)OC(C)(C)C)C=C1)NCCC1=CC(=CC=C1)F | C31H34FN5O3
reactant | HCl | 8 mmol, 4 M, 2.0 mL | Cl | ClH
solvent | MeOH | 20 mL | CO | CH4O
product | 6-(2-cyanophenyl)-2-(3-fluorophenethylamino)-N-(pyrrolidin-2-ylmethyl)nicotinamide hydrochloride | Cl.C(#N)C1=C(C=CC=C1)C1=NC(=C(C(=O)NCC2NCCC2)C=C1)NCCC1=CC(=CC=C1)F | InChI=1S/C26H26FN5O.ClH/c27-20-7-3-5-18(15-20)12-14-30-25-23(26(33)31-17-21-8-4-13-29-21)10-11-24(32-25)22-9-2-1-6-19(22)16-28;/h1-3,5-7,9-11,15,21,29H,4,8,12-14,17H2,(H,30,32)(H,31,33);1H
